US03966989
Preparation of Decyl Methanesulfinate
Into a 50 ml three-necked flask equipped with a magnetic stirrer, thermometer, nitrogen purge and dropping funnel is added 9.9 gms (0.10 moles) of methanesulfinyl chloride. The methane sulfinyl chloride is cooled to -10°C and 17.4 gms (0.11 moles) of decanol is added dropwise while maintaining the temperature of -5° to -10°C. When the addition of the decanol is complete, the reaction mass is warmed to 50°C under 20 mm of vacuum. The resulting product is then cooled and dissolved in 100 ml of diethyl ether admixed with 2 gms. of pyridine. The reaction mass is then extracted with two 10 ml portions of water. A drop of pyridine is added to the ether layer in order to remove additional chloride. In the event that no precipitation occurs the ether layer is then extracted with two 10 ml portions of 3% aqueous hydrochloric acid. The ether layer is then dried over anhydrous sodium sulfate and is then evaporated by means of rotary evaporation yielding an oil which is then subjected to a distillation operation. The resulting product is distilled at 98°C at 0.50-0.65 mm Hg pressure. (Yield 16 gms). GLC, mass spectral and infrared analysis yield the information that the structure of this material is as follows: ##EQU13##

reactant | methanesulfinyl chloride | 0.10 moles, 9.9 gms | CS(=O)Cl | CH3ClOS
reactant | decanol | 0.11 moles, 17.4 gms | C(CCCCCCCCC)O | C10H22O
reactant | pyridine | N1=CC=CC=C1 | C5H5N
solvent | diethyl ether | 100 ml | C(C)OCC | C4H10O
product | Decyl Methanesulfinate | CS(=O)OCCCCCCCCCC | C11H24O2S
